US04005212
N-[2-hydroxy-2-(2-pyridyl)ethyl]ethylene-diamine (17 g.) is dissolved in n-butanol (170 cc.) and carbon disulphide (21.4 g.) is added to the solution. During the addition, the temperature rises from 20° to 34° C. The mixture is stirred for 15 minutes and is then heated under reflux for 30 minutes. After concentration under reduced pressure (20 mm.Hg), the residue is taken up in ethyl acetate (100 cc.). The product which crystallises is filtered off and then dried. 1-[2-Hydroxy-2-(2-pyridyl)ethyl]imidazolidine-2-thione (16 g.), which melts at 120° C., is thus obtained.

reactant | N-[2-hydroxy-2-(2-pyridyl)ethyl]ethylene-diamine | 17 g | OC(CNCCN)C1=NC=CC=C1 | C9H15N3O
reactant | carbon disulphide | 21.4 g | C(=S)=S | CS2
solvent | n-butanol | 170 cc | C(CCC)O | C4H10O
product | 1-[2-Hydroxy-2-(2-pyridyl)ethyl]imidazolidine-2-thione | 16 g | OC(CN1C(NCC1)=S)C1=NC=CC=C1 | C10H13N3OS
